US05312924
Ethyl 2-ethoxy-4-[N-(α-cyclohexylmethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate
At 23°-25° C., a solution of ethyl 2-ethoxy-4-cyanomethyl-benzoate (2.35 g, 10 mmol) and α-cyclohexylmethyl-2-piperidino-benzyl alcohol (2.88 g, 10 mmol) in o-dichlorobenzene (15 ml) is added dropwise to a mixture of concentrated sulphuric acid (15 ml) and o-dichlorobenzene (15 ml). The mixture is stirred for 2 hours at ambient temperature. The o-dichlorobenzene phase is then separated off and the residue is added to ice. After being made alkaline with soda solution, it is extracted with chloroform. The extracts are dried over sodium sulphate and concentrated by evaporation. The residue is purified by column chromatography on silica gel (toluene/acetone=10/1). Yield: 1.1 g

reactant | ethyl 2-ethoxy-4-cyanomethyl-benzoate | 10 mmol, 2.35 g | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC#N | C13H15NO3
reactant | α-cyclohexylmethyl-2-piperidino-benzyl alcohol | 10 mmol, 2.88 g | C1(CCCCC1)CC(C1=C(C=CC=C1)N1CCCCC1)O | C19H29NO
reactant | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | o-dichlorobenzene | 15 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | o-dichlorobenzene | 15 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 2-ethoxy-4-[N-(α-cyclohexylmethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)CC1CCCCC1 | C32H44N2O4
